US07691879B2
4-(3-fluorophenyl)-1-{[2-hydroxy-1-(hydroxymethyl)ethyl]amino}-6-methoxyisoquinoline-3-carbonitrile
A suspension of 1-chloro-4-(3-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile (50 mg) and [2-hydroxy-1-(hydroxymethyl)ethyl]amine (146 mg) in 2 mL isopropanol was heated at 160 C in a microwave reactor for 8 h. The reaction was concentrated and purified by flash chromatography (0% to 5% MeOH in EtOAc) to give a white solid.

reactant | 1-chloro-4-(3-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile | 50 mg | ClC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC(=CC=C1)F)C#N | C17H10ClFN2O
reactant | [2-hydroxy-1-(hydroxymethyl)ethyl]amine | 146 mg | OCC(CO)N | C3H9NO2
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
product | 4-(3-fluorophenyl)-1-{[2-hydroxy-1-(hydroxymethyl)ethyl]amino}-6-methoxyisoquinoline-3-carbonitrile | FC=1C=C(C=CC1)C1=C(N=C(C2=CC=C(C=C12)OC)NC(CO)CO)C#N | C20H18FN3O3
